US07368578B2
A mixture of 4-chloromethyl-1-ethyl-1H-imidazole hydrochloride (8.35 g), triphenylphosphine (12.1 g) and acetonitrile (200 mL) was heated under reflux for 16 hrs. After cooling, the obtained mixture was concentrated. Diethyl ether was added to the residue to allow crystallization, and the precipitated crystals were collected by filtration and washed successively with hexane and ethyl acetate. The obtained crystals were recrystallized from methanol-tetrahydrofuran to give [(1-ethyl-1H-imidazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride as colorless crystals (14.09 g, yield 68%). melting point: 121-122° C.

reactant | 4-chloromethyl-1-ethyl-1H-imidazole hydrochloride | 8.35 g | Cl.ClCC=1N=CN(C1)CC
reactant | triphenylphosphine | 12.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
product | [(1-ethyl-1H-imidazol-4-yl)methyl](triphenyl)phosphonium chloride hydrochloride | 14.09 g, yield 68% | Cl.[Cl-].C(C)N1C=NC(=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H24N2P.2ClH/c1-2-26-18-21(25-20-26)19-27(22-12-6-3-7-13-22,23-14-8-4-9-15-23)24-16-10-5-11-17-24;;/h3-18,20H,2,19H2,1H3;2*1H/q+1;;/p-1
